US05714506
Step B: (R)-N-[1-(3,4-Dimethoxyphenyl)-2-phenylethyl]-2-hydroxy-2-(pyridin -3-yl)-ethylamine
A solution of (R)-N-[1-(3,4-dimethoxyphenyl)-2-phenylethyl]-2-hydroxy-2-(2-chloropyrid-5-yl)-ethylamine (100 mg, 0.26 mmol) in ethanol (7 mL) with 5N sodium hydroxide (0.1 mL, 0.5 mmol) was degassed with argon prior to the addition of Ni(R) (100 mg). The mixture was hydrogenated at 40 Psi overnight and then the catalyst was filtered through Celite and washed with a small amount of ethanol. The filtrate was stripped and the product was purified by prep TLC on silica gel (eluent: 5% methanol in methylene chloride) to give the titled compound. 1H NMR (500 MHz, CDCl3)δ 8.47 (m, 2H), 7.58 (m, 1H), 7.01-7.32 (m, 6H), 6.79-6.84 (m, 3H), 4.53-4.67 (m, 1H), 3.89 and 3.88(s, 3H, OCH3), 3.86 (s, 3H, OCH3), 3.79-3.85 (m, 1H), 2.90-3.03 (m, 2H), 2.78 (m, 1H), 2.49-2.50 (m, 1H).

reactant | (R)-N-[1-(3,4-dimethoxyphenyl)-2-phenylethyl]-2-hydroxy-2-(2-chloropyrid-5-yl)-ethylamine | 0.26 mmol, 100 mg | COC=1C=C(C=CC1OC)C(CC1=CC=CC=C1)NC[C@@H](C=1C=CC(=NC1)Cl)O | C23H25ClN2O3
reactant | sodium hydroxide | 0.5 mmol, 5N, 0.1 mL | [OH-].[Na+]
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
solvent | ethanol | 7 mL | C(C)O | C2H6O
catalyst | Ni | 100 mg | [Ni] | Ni
product | (R)-N-[1-(3,4-Dimethoxyphenyl)-2-phenylethyl]-2-hydroxy-2-(pyridin -3-yl)-ethylamine | COC=1C=C(C=CC1OC)C(CC1=CC=CC=C1)NC[C@@H](C=1C=NC=CC1)O | C23H26N2O3
